US06451816B1
4-(1-Diphenylmethylpiperidin-4-yl)-butylamine
88.9 g (196 mmol) 2-[4-(1-diphenylmethylpiperidin-4-yl)-butyl]-isoindol-1,3-dione are suspended in 1000 ml ethanol and added to 22.0 g (440 mmol) hydrazine hydrate and heated to boiling for four hours. After cooling, the mixture is filtered and the solvent is removed under vacuum. The solid residue is distributed together with the filter residue under heat between 300 ml 10% sodium hydroxide solution and 300 ml acetic acid ethyl ester. The aqueous phase is extracted once again with 150 ml warm acetic acid ethyl ester. The combined organic phases are extracted twice, each with 300 ml 10% hydrochloric acid. The combined aqueous phases are adjusted to alkaline with 10% sodium hydroxide solution and extracted twice, each with 400 ml acetic acid ethyl ester. The combined organic phases are washed with 100 ml water and dried over sodium sulfate. The solvent is removed under vacuum, the residue is dried under high-vacuum and further processed without additional purification. Yield of gradually solidifying resin: 63 g (99%).

reactant | 2-[4-(1-diphenylmethylpiperidin-4-yl)-butyl]-isoindol-1,3-dione | 196 mmol, 88.9 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C30H32N2O2
reactant | hydrazine hydrate | 440 mmol, 22.0 g | O.NN
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 4-(1-Diphenylmethylpiperidin-4-yl)-butylamine | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCN)C1=CC=CC=C1 | C22H30N2
